US07393868B2
(4-Bromo-phenoxy)-acetonitrile
Mix 4-bromophenol (1.4 mmol) in acetonitrile (5 ml) and water (2 ml), add K2CO3 (3 mmol) and bromoacetonitrile (1.5 mmol) at room temperature under inert atmosphere. Heat the mixture to 80° C. for 16 h. Analyze by LC/MS for final product. Evaporate the solvent and add water. Extract product with DCM (3×) and combine and evaporate organic phases to afford the title compound.

reactant | 4-bromophenol | 1.4 mmol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | K2CO3 | 3 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.5 mmol | BrCC#N | C2H2BrN
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | (4-Bromo-phenoxy)-acetonitrile | BrC1=CC=C(OCC#N)C=C1 | C8H6BrNO
